US07858640B2
[2-difluoromethoxy-8-fluoro-3-(4-methanesulfonylbenzyl)-4-methylquinolin-5-yloxy]acetic Acid
A mixture of [2-difluoromethoxy-8-fluoro-3-(4-methanesulfonylbenzyl)-4-methylquinolin-5-yloxy]acetic acid methyl ester (0.57 g), methanol (24 mL), 5.0 M aqueous lithium hydroxide solution (0.5 mL) and water (1.0 mL) was stirred at room temperature for 90 minutes. The pH of the mixture was adjusted to 4 by the addition of glacial acetic acid and the solvent removed under reduced pressure. The residue was diluted with water and the solid collected by filtration, washed with water and dried to afford to title compound as a white solid, 0.53 g.

reactant | [2-difluoromethoxy-8-fluoro-3-(4-methanesulfonylbenzyl)-4-methylquinolin-5-yloxy]acetic acid methyl ester | 0.57 g | COC(COC1=C2C(=C(C(=NC2=C(C=C1)F)OC(F)F)CC1=CC=C(C=C1)S(=O)(=O)C)C)=O | C22H20F3NO6S
reactant | methanol | 24 mL | CO | CH4O
reactant | lithium hydroxide | 5.0 M, 0.5 mL | [OH-].[Li+]
reactant | water | 1.0 mL | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | [2-difluoromethoxy-8-fluoro-3-(4-methanesulfonylbenzyl)-4-methylquinolin-5-yloxy]acetic Acid | FC(OC1=NC2=C(C=CC(=C2C(=C1CC1=CC=C(C=C1)S(=O)(=O)C)C)OCC(=O)O)F)F | C21H18F3NO6S
